US08859773B2
3-chloro-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid, shown below, was prepared as follows
A suspension of 1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid (250 mg, 1.5 mmol) in N,N-dimethylformamide (5 mL) was warmed to 40° C. N-chlorosuccinimide (243 mg, 1.62 mmol) was added and the mixture was stirred at 55° C. for 5 hours. The reaction was cooled to room temperature and left stirring for 2 days. The mixture was diluted with water (20 mL) and stirred overnight. The resulting solid was collected by filtration and dried to give the title compound (161 mg, 55%). +ESI (M+H) 197.1; 1H NMR (400 MHz, DMSO-d6, δ): 13.08 (br. s., 1H), 12.39 (br. s., 1H), 8.86 (d, J=1.8 Hz, 1H), 8.40 (d, J=1.2 Hz, 1H), 7.84 (d, J=2.5 Hz, 1H).

reactant | 1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 1.5 mmol, 250 mg | N1C=CC=2C1=NC=C(C2)C(=O)O | C8H6N2O2
reactant | N-chlorosuccinimide | 1.62 mmol, 243 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 3-chloro-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 161 mg, 55% | ClC1=CNC2=NC=C(C=C21)C(=O)O | C8H5ClN2O2
